US08471005B2
N-tert-Butyl-3-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide
The title compound was prepared in the following manner from N-tert-Butyl-3-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide (0.1 g, 0.3 mmol), 4-(4-morpholino)aniline (90 mg, 0.5 mmol), N,N-Diisopropylethylamine (0.124 mL, 0.712 mmol), and 1-Methoxy-2-propanol (0.5 mL, 5 mmol) were heated in the microwave at 250° C. for 30 minutes. An LCMS showed product and left over amine. The reaction was concentrated and redissolved in 3 ml of DMSO and placed onto the Gilson. The most pure fractions were combined basified with sat. sodium bicarbonate and extracted with DCM, dried filtered and concentrated to give N-tert-Butyl-3-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo-[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide as a yellow solid (30 mg, 20%). MP 225-226 C. LCMS (E/I+) 507 (M+H). NMR 1H (DMSO-d6)-9.40 (bs, 1H), 8.96 (bs, 1H), 8.52 (bs, 1H), 7.77 (d, 1H, J=7.40 Hz), 7.50-7.45 (m, 2H), 7.22-7.05 (m, 4H), 6.93 (s, 2H), 6.54 (d, 1H, J=7.91 Hz), 4.45-4.40 (m, 1H), 3.18-3.25 (m, 2H), 3.04-3.11 (m, 2H), 1.98-2.06 (m, 2H), 1.74-1.84 (m, 2H).

reactant | N-tert-Butyl-3-(2-methylsulfanyl-pyrrolo[2,1-f][1,2,4]triazin-7-yl)-benzenesulfonamide | 0.3 mmol, 0.1 g | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)SC | C17H20N4O2S2
reactant | 4-(4-morpholino)aniline | 0.5 mmol, 90 mg | C1COCCN1C2=CC=C(C=C2)N | C10H14N2O
reactant | N,N-Diisopropylethylamine | 0.712 mmol, 0.124 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 1-Methoxy-2-propanol | 5 mmol, 0.5 mL | COCC(C)O | C4H10O2
product | N-tert-Butyl-3-[2-(4-morpholin-4-yl-phenylamino)-pyrrolo-[2,1-f][1,2,4]triazin-7-yl]-benzenesulfonamide | 30 mg, 20% | C(C)(C)(C)NS(=O)(=O)C1=CC(=CC=C1)C1=CC=C2C=NC(=NN21)NC2=CC=C(C=C2)N2CCOCC2 | C26H30N6O3S
